US04241079
To a solution of 1-iminophenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-n-propylthiobenzene (4.02 g.; 0.01 mol) in methylene chloride (50 ml.), cooled to -5° C., is added 85% of m-chloroperoxybenzoic acid (2.02 g.; 0.01 mol). The mixture is stirred at -5° C. for 30 minutes and is washed with aqueous sodium bicarbonate solution. The methylene dichloride is evaporated from the organic solution to afford 1-iminophenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-n-propylsulfinylbenzene.

reactant | 1-iminophenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-n-propylthiobenzene | 0.01 mol, 4.02 g | N=C1C(C(=C(C=C1)SCCC)CC1=CC=CC=C1)NC(SC)=NC(=O)OC | C20H25N3O2S2
reactant | m-chloroperoxybenzoic acid | 0.01 mol, 2.02 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-iminophenylmethyl-2-(3-carbomethoxy-S-methylisothioureido)-4-n-propylsulfinylbenzene | N=C1C(C(=C(C=C1)S(=O)CCC)CC1=CC=CC=C1)NC(SC)=NC(=O)OC | C20H25N3O3S2
